US04145347
From 10 g. of ethyl 2,2-dimethyl-5-oxopyrrolidineacetate, (British Pat. No. 1,309,692) and 10.5 g. of cis-3-(2,6-dimethyl-1-piperidinyl)propylamine, following the procedure of Example 9, there is obtained cis-N-[3-(2,6-dimethyl-1-piperidinyl)propyl]-2,2-dimethyl-5-oxo-1-pyrrolidineacetamide; m.p. 86°-87° C. after crystallization from isooctane.

reactant | ethyl 2,2-dimethyl-5-oxopyrrolidineacetate | CC1(N(C(CC1)=O)CC(=O)OCC)C | C10H17NO3
reactant | cis-3-(2,6-dimethyl-1-piperidinyl)propylamine | C[C@@H]1N([C@@H](CCC1)C)CCCN | C10H22N2
product | cis-N-[3-(2,6-dimethyl-1-piperidinyl)propyl]-2,2-dimethyl-5-oxo-1-pyrrolidineacetamide | C[C@@H]1N([C@@H](CCC1)C)CCCNC(CN1C(CCC1=O)(C)C)=O | C18H33N3O2
